US06518257B1
(ii) Production of 1-{4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-yl}ethanone
By the reaction in the same manner as in Example 4-(iii) using 1-{4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}ethanone (3.30 g) and pyridine hydrochloride (870 mg), the title compound (910 mg) was obtained as a colorless amorphous powder.

reactant | 1-{4′-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl][1,1′-biphenyl]-3-yl}ethanone | 3.30 g | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(C)=O | C40H36N2O2
reactant | pyridine hydrochloride | 870 mg | Cl.N1=CC=CC=C1
product | 1-{4′-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl][1,1′-biphenyl]-3-yl}ethanone | 910 mg | OC(C(C)C)(C=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(C)=O | C21H22N2O2
